Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with Hx of CAD and dementia who presented to the ED 
accompanied by family with intermitted abdominal pain. Hx of 
dementia on Namenda, so patient cannot provide any history and 
does not that he's in the hospital nor why he is here. Per 
family report, he has been having intermittent abdominal pain at 
home over the past 5 days. In the ___ ED 4 days ago with 
similar complaints. Labs normal essentially other than worsening 
renal function (Cr 1.3, normal baseline). Lipase 64. Family left 
AMA prior to CT scan. Went to ___ ED (primary care location) 
the following day for same abdominal pain complaint. Lipase 
elevated to 771; discharged home because MD there thought his 
pain was more likely due to "medication, macrolipasemia, or 
idiopathic" than acute pancreatitis. Re-presented to ___ ED 
last evening bc patient still uncomfortable-appearing at home 
the 3 days between ___ visit and now. No N/V. Last BM 
yesterday, nonbloody. 
.  
Initial ED vitals: 97.7 88 116/72 22 100% RA. Lipase down to 
119. LFTs and CBC wnl. Pt was given 1.5L of IV fluid and 
Morphine 4mg IV x2 with improvement. CT abd showed no acute 
pathology. GI contacted and recommended treatement for presumed 
pancreatitis. Vitals prior to transfer: 97.7 60 143/79 24 100. 
Before leaving the ED, pt began to c/o epigastric pain. ECG 
unchanged, troponin sent (wnl). Second set of troponins negative 
this AM.
.  
On arrival to the medical floor, he looked somewhat 
uncomfortable but denied any pain. On further questioning he 
endoresed diffuse pain not radiating to his back. He received MS 
IV 2 mg x1 at 2:45 AM and IVF @ 100/hr overnight. This morning 
he is awake and alert but confused; denies current abdominal 
pain and does not remember having pain at home or coming to the 
hospital yesterday. Withing becomes agitated and belligerent, 
tries to leave the hospital in his gown. Wife called, confirms 
story as above and agrees to come urgently this morning to help 
orient him.  
.  
ROS: Denies fever, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
nausea, vomiting, diarrhea, constipation. Wife endorses urinary 
urge over the past few days.  
 
Past Medical History:
CAD (Hx of MI in ___, stent to the LAD)  
Alzheimer's  
hypertension,  
hyperlipidemia  
diabetes mellitus  
duodenitis and gastritis.  

 
Social History:
___
Family History:
CAD runs in the family. Pt's father may have passed away from 
something related to the pancreas.
 
Physical Exam:
ADMISSION EXAM 
VS: T 96.6, BP 165/85, HR 60, RR 20, 98% RA  
GENERAL: Elderly gentleman in NAD, appears mildly uncomfortable. 
Able to answer most questions appropriately. Speech fluent.  
HEENT: NC/AT, sclerae anicteric, MMM, OP clear.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Mild diffuse tenderness, particularly epigastric and 
right-sided. Soft, no rebound or guarding.  
EXTREMITIES: WWP, no c/c/e  
SKIN: No rashes or lesions.  
NEURO: Awake, CNs II-XII grossly intact. Oriented to self only 
("___," unable to state year or month)  
.
DISCHARGE EXAM
VS 97.5 158/90 80 18 96/RA
GENERAL: Elderly gentleman in NAD, comfortable, walking around 
unit w/wife. Able to answer most questions appropriately. Speech 
fluent.  
HEENT: NC/AT, sclerae anicteric, MMM, OP clear.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft, nontender to percussion or deep palpation, 
+normoactive BS
EXTREMITIES: WWP, no c/c/e  
SKIN: No rashes or lesions.  
NEURO: Awake, CNs II-XII grossly intact. Oriented to self only 
("___," unable to state year or month). Strength 
___. Gait narrow-based, requires assistance for stability.
 
Pertinent Results:
ADMISSION LABS
___ 06:15PM BLOOD WBC-9.1 RBC-4.41* Hgb-13.3* Hct-39.8* 
MCV-90 MCH-30.2 MCHC-33.5# RDW-13.8 Plt ___
___ 06:57PM BLOOD ___ PTT-23.9 ___
___ 06:15PM BLOOD Glucose-122* UreaN-17 Creat-1.1 Na-138 
K-3.8 Cl-102 HCO3-26 AnGap-14
___ 06:57PM BLOOD Calcium-9.4 Phos-1.7*# Mg-2.1
___ 06:15PM BLOOD ALT-15 AST-20 AlkPhos-85 TotBili-0.5
.
NOTABLE LABS
___ 06:15PM BLOOD Lipase-119*
___ 06:20AM BLOOD Lipase-253*
___ 06:15PM BLOOD Triglyc-137
___ 06:57PM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD cTropnT-<0.01
.
DISCHARGE
___ 07:15AM BLOOD WBC-5.2 RBC-3.91* Hgb-11.8* Hct-34.8* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-13.6 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-108* UreaN-8 Creat-1.0 Na-145 
K-3.6 Cl-111* HCO3-25 AnGap-13
___ 07:15AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.0
.
MICRO: NONE
.
IMAGING
.
CT ABDOMEN
FINDINGS: The imaged lung bases are clear. The imaged portion of 
the heart 
and pericardium are normal. A small hiatal hernia is present.  
The liver enhances homogeneously without focal lesions or 
biliary dilatation.  
The gallbladder, adrenal glands, spleen and pancreas are normal. 
A 2.6-cm 
cyst is seen in the inferior pole of the spleen. Both kidneys 
have multiple 
subcentimeter hypodense lesions, too small to characterize. A 
2.1-cm cyst is 
seen in the upper pole of the left kidney. 
The stomach, small bowel and large bowel including the appendix 
are normal.  
The abdominal aorta has mild atherosclerotic calcification 
without aneurysmal 
dilation. No significant retroperitoneal or mesenteric 
lymphadenopathy is 
seen. 
PELVIS: The urinary bladder, distal ureters, prostate are 
normal. Mild 
descending and sigmoid colonic diverticulosis is seen, without 
evidence of 
acute diverticulitis. The rectum is normal. No pelvic 
lymphadenopathy or 
free fluid is seen. 
BONES AND SOFT TISSUES: No bone lesions suspicious for infection 
or 
malignancy are seen. Mild degenerative changes of the lumbar 
spine are seen.   
IMPRESSION: 
1. No acute intra-abdominal pathology, specifically no evidence 
of 
appendicitis or cholecystitis. 
2. Incidental note of splenic cyst and renal cyst. 
3. Colonic diverticulosis without evidence of acute 
diverticulitis. 
.
RUQ US (PRELIMINARY READ)
Normal RUQ US examination. Specifically, no cholelithiasis or 
choledocholithiasis. No intra or extrahepatic bile duct 
dilation. 

 
Brief Hospital Course:
___ with CAD and Alzheimer's dementia presenting for ___ time in 
1 week with abdominal pain, found to have mildly elevated 
lipase, negative imaging studies, and benign abdominal exam. 
.  
# Acute pancreatitis 
This was considered the most likely etiology of patient's pain, 
given elevated lipase here on ED presentation 1 week ago which 
is higher now. He was also seen in-between at ___ 
___, where his lipase was as high as 770 but on further 
inspection it seems that their normal range extends to ~400, 
making values difficult to compare. His pancreas, GB and liver 
were all normal on CT abdomen, with no evidence of gallstones, 
pancreatic inflammation or fat stranding. Also considered 
whether his intermittent abd pain could represent an anginal 
equivalent, especially since he does have hx of MI, but serial 
cardiac enzymes were negative. Regarding pancreatitis, no cause 
could be identified. In addition to unremarkable CT, RUQ US was 
negative for small gallstones or biliary ductal dilatation. He 
denies heavy drinking but family affirms that he drinks ___ 
glasses wine/day (down from ___ glasses/day previously). 
Triglycerides were wnl. Review of med list revealed no obvious 
offending meds, nor were any notably new. ERCP was consulted 
regarding question of whether an MRCP could be of diagnostic 
benefit but they thought not. Regarding his management, he was 
originally kept NPO, on continuous IVF. After 24 his diet was 
advanced and he was able to tolerate regular food without 
abdominal pain. Never had any fever, leukocytosis, or 
nausea/vomiting. 
.  
#Thrombocytopenia.
Patient's platelet counts fell during this admission, from 160 
to 115. This may have been ___ dilution from IVF resuscitation.  
He received SQH for DVT prophylaxs, but the timing was not 
suggestive of HIT.  His plts should be rechecked at the time he 
follows-up with his PCP.
.
#Agitation/Confusion, Hx Alzheimer's Dementia
Patient awoke suddently confused, agitated and belligerent 
w/staff on the morning after admission. Required physical and 
pharmacologic restraints (haldol 2.5 mg IV, ativan 0.5 mg IV). 
Family alerted. Wife reports similar hx during past 
hospitalizations. Family was told by ED staff that they could 
not stay overnight; this was clarified the following morning on 
the floor, and they were encouraged to stay overnight to 
minimize patient disorientation/agitation. Geriatrics consult 
also recommended having 24h family presence throughout the 
hospitalization, and indeed the patient responded very well to 
having his wife stay overnight. No futher agitation. Recommend 
that family be invited to stay a priori during future 
admissions. He was continued on home Namenda and Aricept. On 
___ protocol to minimize delirium. 
.
# Hx CAD 
He was continued on home aspirin, statin and beta blocker. 
Abdominal pain thought unlikely to be ACS. Serial cardiac 
enzymes were negative and there were no noted EKG changes 
compared w/priors.
.
# Hx Gastritis 
Pt takes a PO PPi at home. This was converted to IV PPi when in 
the hospital, then back to PO at time of discharge. Gastritis 
very unlikely to explain his abdominal symptoms, as there was no 
food association nor did symptoms improve with maalox/lidocaine 
cocktail. Stools were guaiac negative.  
.  
# HTN
BP was elevated at time of admission. He was continued on home 
Imdur and betablocker; ___ and thiazide initially held while 
attempting fluid resuscitation for mild pancreatitis. ___ and 
thiazide were restarted prior to discharge.
.
TRANSITIONAL ISSUES
1. Follow-up CBC (esp platelets), LFTs, lipase (outpatient labs 
ordered)
2. Follow-up BP
3. Follow-up abdominal exam

 
Medications on Admission:
Nexium 40 mg once a day  
Diovan/HCTZ 12.5 mg/160  
vitamin D3 400 units in international 2 tabs once a day  
Namenda 10 mg 1 tab 2 times a day  
Aricept 10 mg 1 tab once a day at bedtime  
Imdur 30 mg 1 tab in the morning  
aspirin 81 mg 1 tab once a day  
multiple vitamins 1 cap once a day  
Crestor 10 mg 1 tab once a day at bedtime  
atenolol 25 mg once a day  
Effexor XR 37.5 mg 2 caps once a day. 
 
Discharge Medications:
1. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
2. Diovan HCT ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
3. Vitamin D-3 400 unit Tablet Sig: Two (2) Tablet PO once a 
day.  
4. memantine 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Aricept 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
6. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Crestor 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
9. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
10. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Effexor XR 37.5 mg Capsule, Ext Release 24 hr Sig: Two (2) 
Capsule, Ext Release 24 hr PO once a day.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:  
Mild idiopathic pancreatitis 
. 
Secondary Diagnoses:  
Alzheimer's Dementia 
Gastritis 
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___, 
.
It was a pleasure to care for you during your hospitalization at 
___.
.
You were admitted for abdominal pain.
.
We did a number of tests to identify the source of your 
abdominal pain. You had a CT scan which was normal. You had an 
ultrasound of your liver, gallbladder and pancreas which was 
normal. Your labs showed mild inflammation of the pancreas. We 
suspect you may have had pancreatitis which was resolving by the 
time you came to the hospital. We did not find any gallstones.
.
You needed a few doses of pain medication to keep your abdominal 
pain under control. We also gave you intravenous fluids. 
.
You were able to tolerate food without pain, nausea, or 
vomiting. We expect that you will continue to improve at home in 
the next week or two. 

We advise you to avoid all alcoholic beverages because alcohol 
can irritate the pancreas. Do not take any anti-inflammatory 
medications such as ibuprofen (motrin, advil) or aleve. 
.
We did not make any changes to your medications.
.
If you have pain at home before you see Dr. ___ 
recommend tylenol. You can take up to 4 X ___ mg doses per day. 
You should avoid taking ibuprofen (motrin, advil) given your 
history of gastritis.

Please review this medication list with Dr. ___ at your 
next appointment. Dr. ___ be able to view the 
records from this hospitalization at your next appointment.
 
Followup Instructions:
___